datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O:10]C(C9=CC=CC=C9)C(C)C(CC)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](CC)C(C)[CH](C)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(C)[NH]2.C[O:10][H] 21=20;20,10=10"
"[O:10]([Na])C([H])/C(O)=C([C:20]([H])=[O:21])/C>>[O-:21][C:20]1([H])[O+:10]([Na])C([H])C(O)=C1C 10=20;20,21=21"
"[H][S+:10](C(CC)C([H])[S]1)[C:20]1([O:21]C)[O][H].[Cl-]>>[Cl-].[H][S:10]C(CC)C([H])[S][C:20]([O][H])=[O+:21]C 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)[H])C)CC)[O-:10])C>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])[H])C)CC)C 10=20;20,21=21"
"C[O:10][H].C[O+:21]=[C:20]([O]CC)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([O:21]C)([O]CC)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C(C)C(CC)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)C(CC)[O]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10](C(CC)C([H])C(C)[S]1)[C:20]1([O:21]C)[S][H].[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])C(C)[S][C:20]([S][H])=[O+:21]C 21=20;20,10=10"
"[O:20]=[C:21](OC)O[H].CC[O:10][K]>>CC[O+:10]([K])[C:21]([O-:20])(OC)O[H] 10=21;21,20=20"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(C)[S]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(C)[S][C:20]([O]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"C1=CC=CC=C1[O:10][C:20]([O-:21])(OC1=CC=CC=C1)OC>>[O:21]=[C:20](OC1=CC=CC=C1)OC.[O-:10]C1=CC=CC=C1 21=20;20,10=10"
"[H][O:10]C([H])C(C)C(CC)[NH][C:20]([O]CC)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C(CC)[NH]1)[C:20]1([NH:21]C)[O]CC 10=20;20,21=21"
"[H][S:10]C(CC)C(C)C(C)[O][C:20]([S]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C)C(C)[O]1)[C:20]1([O:21][H])[S]CC 10=20;20,21=21"
"[NH:10](C)C(CC)C(C)C(O)C(C)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(C)C(O)C(C)C(CC)[NH+:10]1(C) 10=20;20,21=21"
"[H][O:10]C(C)C(CC)[O][C:20]([O]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C(CC)[O]1)[C:20]1([NH:21]C)[O]C 10=20;20,21=21"
"[Si](C)(C)(C)[O+:21]=[C:20]2[S]C([H])C(C)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C([H])C(C)[O]1 10=20;20,21=21"
"[OH:21][C:20]1(OCC)[OH+:10]C(C)C([H])N1C>>[OH:10]C(C)C([H])N([C:20](OCC)=[OH+:21])C 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C(CC)[O]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C(CC)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"CC[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]C)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]C)[S]C7=CC=CC=C7 10=20;20,21=21"
"[NH:10](C)C(C)C([H])C(C)C([H])[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C([H])C(C)C([H])C(C)[NH+:10]1(C) 10=20;20,21=21"
"[NH:10]([H])C(CC)C(O)C(C)C(C)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(C)C(C)C(O)C(CC)[NH+:10]1([H]) 10=20;20,21=21"
"CC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C)CC.[O-:21]CCCCCC>>CC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CCCCCC)C)CC 21=20;20,10=10"
"[H][O:10]C(C)C(C8=CC=CC=C8)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(CC)[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C([H])[CH](CC)[NH]1 10=20;20,21=21"
"C[NH+:10]([H])[C:20]1([NH:21]C)[NH]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[NH]2.C[NH:10][H] 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)[H])[H])C)[O-:10])CC>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])[H])[H])C)CC 10=20;20,21=21"
"[H][NH:10]C(CC)C([H])C(CC)[NH][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C([H])C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(C8=CC=CC=C8)[O]2.CC[NH:10][H] 21=20;20,10=10"
"[OH:21][C:20]2(OCC)C(C(C)C3=C([NH+:10]2(C))C=CC=C3)O>>[NH:10](C)C(C=CC=C1)=C1C(C)C([C:20](OCC)=[OH+:21])O 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C([H])[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](CC)C([H])[CH]([H])[O]1 10=20;20,21=21"
"[H][NH+:10](C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[O][H].[Cl-]>>[Cl-].[H][NH:10]C([H])C(C8=CC=CC=C8)[O][C:20]([O][H])=[NH+:21][H] 21=20;20,10=10"
"[H][S+:10](C([H])C(C)C(C)[O]1)[C:20]1([O:21]C)[O]C.[Cl-]>>[Cl-].[H][S:10]C([H])C(C)C(C)[O][C:20]([O]C)=[O+:21]C 21=20;20,10=10"
"[OH:10]C([H])C([H])C(O)C([H])[C:20](OCC)=[OH+:21]>>[OH:21][C:20]1(OCC)C([H])C(O)C([H])C([H])[OH+:10]1 10=20;20,21=21"
"[H][O+:10](C(C)C(C)C(CC)[O]1)[C:20]1([O:21]C)[S]C.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C(CC)[O][C:20]([S]C)=[O+:21]C 21=20;20,10=10"
"[OH:10]C([H])/C(O)=C([C:20](OC)=[OH+:21])/O>>[OH:21][C:20]1(OC)[OH+:10]C([H])C(O)=C1O 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C([H])C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[O]C([H])C(C8=CC=CC=C8)[O]2.CC[O:10][H] 21=20;20,10=10"
